US06984649B1
To a solution of tert-butyl 3-{2-amino-6-[2-(benzyloxy)-6-hydroxyphenyl]-3-cyano-4-pyridinyl}-1-piperidinecarboxylate (239 mg, 0.48 mmol) in dioxane (25 mL) was added 4N HCl/dioxane (25 mL). The reaction mixture was stirred at room temperature overnight. The resulting precipitate was collected by filtration, washed with ethyl acetate and hexane, dried under reduced pressure to give 2-amino-6-[2-(benzyloxy)-6-hydroxyphenyl]-4-(3-piperidinyl)nicotinonitrile hydrochloride (184 mg, yield; 88%).

reactant | tert-butyl 3-{2-amino-6-[2-(benzyloxy)-6-hydroxyphenyl]-3-cyano-4-pyridinyl}-1-piperidinecarboxylate | 0.48 mmol, 239 mg | NC1=NC(=CC(=C1C#N)C1CN(CCC1)C(=O)OC(C)(C)C)C1=C(C=CC=C1O)OCC1=CC=CC=C1 | C29H32N4O4
reactant | HCl dioxane | 4N, 25 mL | Cl.O1CCOCC1
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | 2-amino-6-[2-(benzyloxy)-6-hydroxyphenyl]-4-(3-piperidinyl)nicotinonitrile hydrochloride | 184 mg, yield; 88% | Cl.NC1=C(C#N)C(=CC(=N1)C1=C(C=CC=C1O)OCC1=CC=CC=C1)C1CNCCC1 | InChI=1S/C24H24N4O2.ClH/c25-13-19-18(17-8-5-11-27-14-17)12-20(28-24(19)26)23-21(29)9-4-10-22(23)30-15-16-6-2-1-3-7-16;/h1-4,6-7,9-10,12,17,27,29H,5,8,11,14-15H2,(H2,26,28);1H
